US06384057B1
A mixture of 3-(3,4-difluorophenyl)-5-(furan-2-yl)-1-(2-hydroxyphenyl)-1,5-pentanedione on Wang resin (2.0 g, 1.76 mmol), NH4OAc (0.80 g), and AcOH (1.0 mL) in dimethylformamide (20 mL) was heated at 100° C. for 18 h. The resin was filtered, and washed with dimethylformamide (×2) and alternating MeOH and CH2Cl2 (×5), and dried under high vacuum overnight. The dried resin was treated with 50% TFA/CH2Cl2 (15 mL) for 1 h. After filtration of the reaction mixture, the filtrate was concentrated to dryness. The residue was repeatedly dissolved in CH2Cl2 (10 mL) and concentrated to remove traces of TFA. Purification by flash chromatography gave 2-[4-(3,4-difluoro-phenyl)-6-furan-2-yl-pyridin-2-yl]-phenol; mp 147-148° C.; 1H NMR (DMSO-d6) d 6.78 (m, 1H), 6.98 (m, 2H), 7.37 (m, 1H), 7.43 (m, 1H), 7.67 (m, 1H), 8.00 (m, 2H), 8.15 (d, J=1.3 Hz, 1H), 8.31 (m, 2H), 8.39 (d, J=1.3 Hz, 1H), 14.26, (s, 1H); IR (KBr) 1605 cm−1; MS [M+H]+ m/z=350. Anal. calcd for C21H13F2NO2: C, 72.20; H, 3.75; N, 4.01; Found: C, 71.94; H, 3.62; N, 3.74.

reactant | 3-(3,4-difluorophenyl)-5-(furan-2-yl)-1-(2-hydroxyphenyl)-1,5-pentanedione | FC=1C=C(C=CC1F)C(CC(=O)C1=C(C=CC=C1)O)CC(=O)C=1OC=CC1 | C21H16F2O4
reactant | AcOH | 1.0 mL | CC(=O)O | C2H4O2
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-[4-(3,4-difluoro-phenyl)-6-furan-2-yl-pyridin-2-yl]-phenol | FC=1C=C(C=CC1F)C1=CC(=NC(=C1)C=1OC=CC1)C1=C(C=CC=C1)O | C21H13F2NO2
